US06303593B1
1Benzyl-4-(3-phenylpropyl)-1,2,3,6-tetrahydropyridine
A solution of 1.7 g (8.6 mmol) of 4-(3-phenylpropyl)pyridine and 1.5 mL of benzylbromide in 5 mL of ethanol was stirred at rt for 0.5 h. To the reaction mixture was added 10 mL of ethanol and the mixture was cooled to 0° C. To this mixture was added 0.5 g (13.2 mmol) of NaBH4 small portions over a period of 1 h. To the reaction mixture was then added 5 mL of a 1N NaOH solution and the mixture was partitioned between 200 mL of ether and 50 mL of H2O. The combined organic fractions were washed with sat'd NaCl solution, dried over MgSO4, filtered and the filtrate was concentrated. The residue was purified by chromatography (silica, hexanes:ethyl acetate, 9:1) to give the title compound.

reactant | 4-(3-phenylpropyl)pyridine | 8.6 mmol, 1.7 g | C1(=CC=CC=C1)CCCC1=CC=NC=C1 | C14H15N
reactant | benzylbromide | 1.5 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaBH4 | 13.2 mmol, 0.5 g | [BH4-].[Na+]
reactant | NaOH | 1N | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1Benzyl-4-(3-phenylpropyl)-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)CCCC1=CC=CC=C1 | C21H25N
